* eeschema netlist version 1.1 (spice format) creation date: wed jun 17 14:53:06 2015

.include D.lib
d1 net-_d1-pad1_ net-_d1-pad2_ D1N750
d3 net-_d3-pad1_ net-_d1-pad2_ D1N750
d4 gnd net-_d3-pad1_ D1N750
d2 gnd net-_d1-pad1_ D1N750
r1  net-_d1-pad2_ gnd 1000
v1  net-_d1-pad1_ net-_d3-pad1_ sine(0 2 50 0 0)
.tran 10e-03 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
