* /home/fossee/downloads/esim-master/examples/bridgerectifier/bridgerectifier.cir

.include D.lib
d1 in1 out D1N750
d3 in2 out D1N750
d4 gnd in2 D1N750
d2 gnd in1 D1N750
v1  in1 in2 sine(0 2 50 0 0)
r1  out gnd 1k
.tran 10e-03 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
